US05387709
b) Ethyl 4-[(2-aminocyclopentyl)methyl]benzeneacetate (cis+trans)
In an autoclave, a solution of 75.1 g (0.27 mole) of ethyl 4-[(2-hydroxyiminocyclopentyl)methyl]benzeneacetate in 800 ml of anhydrous ethanol saturated with NH3 is combined with about 37.5 g of Raney Nickel in water. The mixture is stirred under 80 atmospheres of hydrogen, at 80° C. during 4 hours. After cooling, the catalyst is filtered and rinsed with ethanol. The concentrated filtrate under reduced pressure, gives 69.3 g (yield=98.3%) of an orange oil which crystallizes but which is used without any other purification.

reactant | ethyl 4-[(2-hydroxyiminocyclopentyl)methyl]benzeneacetate | 0.27 mole, 75.1 g | ON=C1C(CCC1)CC1=CC=C(C=C1)CC(=O)OCC | C16H21NO3
reactant | NH3 | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | Raney Nickel | about 37.5 g | [Ni] | Ni
solvent | water | O | H2O
product | Ethyl 4-[(2-aminocyclopentyl)methyl]benzeneacetate | 69.3 g, yield=98.3% | NC1C(CCC1)CC1=CC=C(C=C1)CC(=O)OCC | C16H23NO2
